US04258181
9,10-Anthracenedicarboxaldehyde bis(thiosemicarbazone)
A mixture of 2.34 g. of 9,10-anthracenedicarboxaldehyde and 3.65 g. of thiosemicarbazide in 250 ml. of absolute ethanol containing 2.0 ml. of glacial acetic acid is heated on a steam bath for 24 hours, allowed to cool and then let stand overnight. The solid is collected, washed with absolute ethanol, dried and recrystallized from aqueous dimethylformamide giving the desired product as orange crystals, m.p. 275°-277° C.

reactant | 9,10-anthracenedicarboxaldehyde | C1=CC=CC2=C(C3=CC=CC=C3C(=C12)C=O)C=O | C16H10O2
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | ethanol | 2.0 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9,10-Anthracenedicarboxaldehyde bis(thiosemicarbazone) | N(NC(=S)N)=CC=1C2=CC=CC=C2C(=C2C=CC=CC12)C=NNC(=S)N | C18H16N6S2
